US06072083
Reference Example 1 (Production and Assimilability of p-Ethylbenzenesulfonic Acid)
33 ml (0.6 mol) of conc. sulfuric acid was added to 62 ml (0.5 mol) of ethylbenzene, and the mixture was stirred for 1.5 hours under heating at 120 to 130° C. Layer separation will occur if unreacted ethylbenzene still remains, so the reaction was terminated when no layer separation was confirmed, and a solution containing p-ethylbenzenesulfonic acid as the major component was thus obtained. This solution was poured into 150 ml water and neutralized partially with sodium hydrogen carbonate, and the sodium chloride was added to precipitate crystals ol sodium p-ethylbenzene sulfonate. The resulting crystals were separated by filtration and dried in vacuo. This sodium p-ethylbenzenesulfonate is easily soluble in water and sparingly soluble in ethanol. A 1H-NMR spectrum of the resulting crystals is shown in FIG. 1.

reactant | sulfuric acid | 0.6 mol, 33 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethylbenzene | 0.5 mol, 62 ml | C(C)C1=CC=CC=C1 | C8H10
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | 150 ml | O | H2O
product | p-Ethylbenzenesulfonic Acid | C(C)C1=CC=C(C=C1)S(=O)(=O)O | C8H10O3S
